US08084559B2
There was washed 1.50 g (11.22 mmol) of potassium hydride having a purity of 30% by weight with each 3 mL of hexane three times in an atmosphere of nitrogen, and 18 mL of THF was added thereto. To the obtained THF slurry of potassium hydride, 2.50 g (8.98 mml) of 3,6-di-tert-butylfluorene was added dropwise at 0° C. using 18 mL of a THF solution thereof. The obtained mixture was stirred for 2 hours at a room temperature, and then 2.92 g (8.98 mmol) of (2-allyloxy-3-tert-butyl-5-methylphenyl)chlorodiethylsilane was added dropwise at −78° C. using 4 mL of a toluene solution thereof. The temperature of the obtained liquid reaction mixture was raised up to a room temperature, and the mixture was stirred for 2 hours. The mixture was added dropwise at 0° C. to a mixture of 18 mL of a 10% aqueous solution of sodium hydrogen carbonate and 18 mL of a 10% aqueous solution of sodium carbonate, and the resultant mixture was extracted with 10 mL of toluene. The obtained extract was dried over sodium sulfate, and dried extract was concentrated under a reduced pressure, thereby obtaining quantitatively (2-allyloxy-3-tert-butyl-5-methylphenyl)(3,6-di-tert-butylfluoren-9-yl)diethylsilane.

reactant | potassium hydride | 11.22 mmol, 1.50 g | [H-].[K+]
reactant | 3,6-di-tert-butylfluorene | 2.50 g | C(C)(C)(C)C=1C=CC=2CC3=CC=C(C=C3C2C1)C(C)(C)C | C21H26
reactant | (2-allyloxy-3-tert-butyl-5-methylphenyl)chlorodiethylsilane | 8.98 mmol, 2.92 g | C(C=C)OC1=C(C=C(C=C1C(C)(C)C)C)[Si](CC)(CC)Cl | C18H29ClOSi
reactant | sodium hydrogen carbonate | C(O)([O-])=O.[Na+]
reactant | sodium carbonate | C([O-])([O-])=O.[Na+].[Na+]
solvent | hexane | 3 mL | CCCCCC | C6H14
solvent | THF | 18 mL | C1CCOC1 | C4H8O
solvent | THF | 18 mL | C1CCOC1 | C4H8O
solvent | toluene | 4 mL | C1(=CC=CC=C1)C | C7H8
product | (2-allyloxy-3-tert-butyl-5-methylphenyl)(3,6-di-tert-butylfluoren-9-yl)diethylsilane | C(C=C)OC1=C(C=C(C=C1C(C)(C)C)C)[Si](CC)(CC)C1C2=CC=C(C=C2C=2C=C(C=CC12)C(C)(C)C)C(C)(C)C | C39H54OSi
